### PR TITLE
[Merged by Bors] - feat: parameter equality of strongly regular graphs

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
i.e. $k(k-l-1)=(n-k-1)μ$. An extra condition $n>0$ is required because the proof (a standard double counting argument) sets itself around an arbitrary vertex of the graph, and furthermore the null graph ($n=0$) can vacuously be made to be strongly regular with any parameters you like.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/StronglyRegular.lean [hunk 1]
```diff
@@ -176,4 +175,35 @@ theorem IsSRGWith.compl (h : G.IsSRGWith n k ℓ μ) :
 set_option linter.uppercaseLean3 false in
 #align simple_graph.is_SRG_with.compl SimpleGraph.IsSRGWith.compl
 
+/-- The parameters of a strongly regular graph with at least one vertex satisfy
+`k * (k - ℓ - 1) = (n - k - 1) * μ`. -/
+theorem IsSRGWith.param_eq (h : G.IsSRGWith n k ℓ μ) (hn : 0 < n) :
+    k * (k - ℓ - 1) = (n - k - 1) * μ := by
+  rw [← h.card, Fintype.card_pos_iff] at hn
+  have v := Classical.choice hn
```
Comment (eric-wieser) [inline Mathlib/Combinatorics/SimpleGraph/StronglyRegular.lean:183]:
```suggestion
  obtain \<v\> := hn
```
avoids choice here

(sorry, you'll have to type the unicode)

Comment (Parcly-Taxel) [reply Mathlib/Combinatorics/SimpleGraph/StronglyRegular.lean]: Done.

**Comment by kmill** [comment]
Thanks, looks good.

bors r+
